US05710142
2,2-difluoro-3-ethyl-3-trimethylsilyloxy-pentane-1-ol
A stirred, ice-cooled solution of 2,2-difluoro-3-ethyl-3-trimethylsilyloxy-pentanal (1.45 g, 6.08 mmol) in THF (5 ml) and ethanol (15 ml) was treated with sodium borohydride (2.76 mg, 7.30 mmol). After 30 minutes the reaction mixture was partitioned between ethyl acetate and water, and the organic layer was washed with brine, dried over MgSO4 and concentrated. Flash chromatography (50 g silica gel; 10% EtOac in petroleum ether as eluant) afforded the title compound as a colourless oil, δ 0.15 (s, 9H), 1.36 (t, 6H), 2.48 (m, 1H), 3.93 (m, 2H).

reactant | 2,2-difluoro-3-ethyl-3-trimethylsilyloxy-pentanal | 6.08 mmol, 1.45 g | FC(C=O)(C(CC)(O[Si](C)(C)C)CC)F | C10H20F2O2Si
reactant | sodium borohydride | 7.30 mmol, 2.76 mg | [BH4-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2,2-difluoro-3-ethyl-3-trimethylsilyloxy-pentane-1-ol | FC(CO)(C(CC)(O[Si](C)(C)C)CC)F | C10H22F2O2Si
